US03968131
15 parts of 1-amino-2-methoxy-4-hydroxyanthraquinone, 50 parts of 2-ethyl-2-butyl-1,3-propanediol, 2.5 parts of a polyethylene oxide of average moleclar weight 200 and 1.5 parts of potassium hydroxide are heated for 3.5 hours at 160°C under nitrogen. After working up, 13.5 parts of 1-amino-2-(2'-ethyl-2'-butyl-3'-hydroxypropanoxy)-4-hydroxyanthraquinone are obtained.

reactant | 1-amino-2-methoxy-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OC | C15H11NO4
reactant | 2-ethyl-2-butyl-1,3-propanediol | C(C)C(CO)(CO)CCCC | C9H20O2
reactant | potassium hydroxide | [OH-].[K+]
product | 1-amino-2-(2'-ethyl-2'-butyl-3'-hydroxypropanoxy)-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OCC(CO)(CCCC)CC | C23H27NO5
